US04753941
2-Amino-7-chloro-1,8-naphthyridine (17.95 g) is added to a mixture, preheated to 60° C., of 3-chlorophenol (51.4 g) and potassium hydroxide pellets (85% pure; 13.2 g). The reaction mixture is heated to 120° C. for 3 hours. The product is separated by filtration, washed with water to a pH of approximately 7 and then dried in the air. 2-Amino-7-(3-chlorophenoxy)-1,8-naphthyridine (20.6 g), m.p. 166° C., is obtained.

reactant | 2-Amino-7-chloro-1,8-naphthyridine | 17.95 g | NC1=NC2=NC(=CC=C2C=C1)Cl | C8H6ClN3
reactant | 3-chlorophenol | 51.4 g | ClC=1C=C(C=CC1)O | C6H5ClO
reactant | potassium hydroxide | [OH-].[K+]
product | 2-Amino-7-(3-chlorophenoxy)-1,8-naphthyridine | 20.6 g | NC1=NC2=NC(=CC=C2C=C1)OC1=CC(=CC=C1)Cl | C14H10ClN3O
